### PR TITLE
[Merged by Bors] - feat: add `WithTop.untop₀`

### PR DESCRIPTION
**Pull request by kebekus**
For types α that are instances of `Zero`, provide a convenient conversion, `WithTop.toBase`, that maps elements `a : WithTop α` to `α`, by mapping `⊤` to zero. For settings where `α` has additional structure, provide simplifier lemmas, akin to those already existing for `ENat.toNat`.

This is PR implements a suggestion discussed on [Zulip](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/Project.20VD.20--.20Value.20Distribution.20Theory/near/495423608)

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/ToBase.lean [hunk 1]
```diff
@@ -0,0 +1,85 @@
...
+-/
+lemma WithTop.toBase_def [Zero α] (a : WithTop α) :
+    a.toBase = a.untopD 0 := rfl
+
+@[simp]
+lemma WithTop.toBase_eq_zero_iff [Zero α] (a : WithTop α) :
+    a.toBase = 0 ↔ a = 0 ∨ a = ⊤ := by simp_all [WithTop.toBase_def]
+
+@[simp]
+lemma WithTop.toBase_of_top [Zero α] :
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/ToBase.lean:37]:
```suggestion
lemma WithTop.toBase_top [Zero α] :
```

File: Mathlib/Algebra/Order/ToBase.lean [hunk 2]
```diff
@@ -0,0 +1,85 @@
...
+    (⊤ : WithTop α).toBase = (0 : α) := by simp_all [WithTop.toBase_def]
+
+@[simp]
+lemma WithTop.toBase_of_zero [Zero α] :
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/ToBase.lean:41]:
```suggestion
lemma WithTop.toBase_zero [Zero α] :
```

File: Mathlib/Algebra/Order/ToBase.lean [hunk 3]
```diff
@@ -0,0 +1,85 @@
...
+  · simp [ha]
+  · lift a to α using ha
+    rw [(by rfl : -a = (↑(-a) : WithTop α)), WithTop.toBase_coe]
+    simp
+
+/-!
+## Simplifying Lemmas in cases where α is a LinearOrderedCommRing
+-/
+@[simp]
+lemma toBase_mul [LinearOrderedCommRing α] (a b : WithTop α) :
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/ToBase.lean:73]:
```suggestion
lemma toBase_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
```

File: Mathlib/Algebra/Order/ToBase.lean [hunk 4]
```diff
@@ -0,0 +1,85 @@
...
+zero.
+
+For settings where `α` has additional structure, we provide a large number of
+simplifier lemmas, akin to those that already exists for `ENat.toNat`.
+-/
+
+variable {α : Type*}
+
+/-- Conversion from `WithTop.toBase` to `α`, mapping `⊤` to zero. -/
+noncomputable def WithTop.toBase [Zero α] (a : WithTop α) : α := a.untopD 0
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/ToBase.lean:24]: Why is this `noncomputable`?
```suggestion
def WithTop.toBase [Zero α] (a : WithTop α) : α := a.untopD 0
```

File: Mathlib/Algebra/Order/ToBase.lean [hunk 5]
```diff
@@ -0,0 +1,85 @@
...
+
+/-!
+## Simplifying Lemmas in cases where α is an Instance of Zero
+-/
+lemma WithTop.toBase_def [Zero α] (a : WithTop α) :
+    a.toBase = a.untopD 0 := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/ToBase.lean:30]: This is already the equational lemma. You can `rw [toBase]`
```suggestion
```

File: Mathlib/Algebra/Order/ToBase.lean [hunk 6]
```diff
@@ -0,0 +1,85 @@
...
+
+For types α that are instances of `Zero`, we provide a convenient conversion,
+`WithTop.toBase`, that maps elements `a : WithTop α` to `α`, by mapping `⊤` to
+zero.
+
+For settings where `α` has additional structure, we provide a large number of
+simplifier lemmas, akin to those that already exists for `ENat.toNat`.
+-/
+
+variable {α : Type*}
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/ToBase.lean:21]:
```suggestion
namespace WithTop
variable {α : Type*}
```
That will save you from a bunch of `WithTop.` below

File: Mathlib/Algebra/Order/ToBase.lean [hunk 7]
```diff
@@ -0,0 +1,85 @@
...
+noncomputable def WithTop.toBase [Zero α] (a : WithTop α) : α := a.untopD 0
+
+/-!
+## Simplifying Lemmas in cases where α is an Instance of Zero
+-/
+lemma WithTop.toBase_def [Zero α] (a : WithTop α) :
+    a.toBase = a.untopD 0 := rfl
+
+@[simp]
+lemma WithTop.toBase_eq_zero_iff [Zero α] (a : WithTop α) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/ToBase.lean:33]:
```suggestion
lemma WithTop.toBase_eq_zero [Zero α] (a : WithTop α) :
```
since the `_iff` part is understood

File: Mathlib/Algebra/Order/ToBase.lean [hunk 8]
```diff
@@ -0,0 +1,85 @@
...
+  lift a to α using ha
+  lift b to α using hb
+  simp [← WithTop.coe_add]
+
+/-!
+## Simplifying Lemmas in cases where α is a LinearOrderedAddCommGroup
+-/
+@[simp]
+lemma toBase_neg [LinearOrderedAddCommGroup α] (a : WithTop α) :
+    (-a).toBase = -a.toBase  := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/ToBase.lean:62]:
```suggestion
    (-a).toBase = -a.toBase := by
```

File: Mathlib.lean [hunk 9]
```diff
@@ -876,6 +876,7 @@ import Mathlib.Algebra.Order.SuccPred
 import Mathlib.Algebra.Order.SuccPred.TypeTags
 import Mathlib.Algebra.Order.SuccPred.WithBot
 import Mathlib.Algebra.Order.Sum
+import Mathlib.Algebra.Order.ToBase
```
Comment (YaelDillies) [inline Mathlib.lean:879]:
```suggestion
import Mathlib.Algebra.Order.WithTop.ToBase
```
or something. Otherwise it's too generically named

**Review by YaelDillies — COMMENTED** [review]
Thanks for the PR! I am not a huge fan of the name `toBase`. Can you come up with alternatives?

File: Mathlib.lean (hunk 9 above)
Comment (kebekus) [reply Mathlib.lean]: Implemented

**Comment by kebekus** [comment]
@jcommelin @YaelDillies Thanks for looking at this. I suggest to take the naming question to Zulip. I could imagine that this might be controversial, with different people having different ideas.

**Comment by YaelDillies** [comment]
[Zulip](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/Project.20VD.20--.20Value.20Distribution.20Theory)

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 10]
```diff
@@ -0,0 +1,86 @@
...
+/-- Conversion from `WithTop α` to `α`, mapping `⊤` to zero. -/
+def untop₀ [Zero α] (a : WithTop α) : α := a.untopD 0
+
+/-!
+## Simplifying Lemmas in cases where α is an Instance of Zero
+-/
+
+@[simp]
+lemma untop₀_eq_zero [Zero α] (a : WithTop α) :
+    a.untop₀ = 0 ↔ a = 0 ∨ a = ⊤ := by simp_all [WithTop.untop₀]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean:33]:
```suggestion
    a.untop₀ = 0 ↔ a = 0 ∨ a = ⊤ := by simp [WithTop.untop₀]
```
and everywhere else

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 11]
```diff
@@ -0,0 +1,86 @@
...
+lemma untop₀_add [AddMonoid α] {a b : WithTop α} (ha : a ≠ ⊤) (hb : b ≠ ⊤) :
+    (a + b).untop₀ = a.untop₀ + b.untop₀ := by
+  lift a to α using ha
+  lift b to α using hb
+  simp [← WithTop.coe_add]
+
+/-!
+## Simplifying Lemmas in cases where α is a MulZeroClass
+-/
+@[simp]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean:59]:
```suggestion

@[simp]
```
Same below

**Comment by YaelDillies** [comment]
Don't forget to update the PR title

**Comment by kebekus** [comment]
@YaelDillies Done changing the title.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 12]
```diff
@@ -0,0 +1,87 @@
...
+## Simplifying Lemmas in cases where α is an Instance of Zero
+-/
+
+@[simp]
+lemma untop₀_eq_zero [Zero α] (a : WithTop α) :
+    a.untop₀ = 0 ↔ a = 0 ∨ a = ⊤ := by simp [WithTop.untop₀]
+
+@[simp]
+lemma untop₀_top [Zero α] :
+    (⊤ : WithTop α).untop₀ = (0 : α) := by simp_all [WithTop.untop₀]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean:37]: You still have a lot of `simp_all` in the file
```suggestion
    (⊤ : WithTop α).untop₀ = (0 : α) := by simp [WithTop.untop₀]
```

Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Fixed. Thanks for pointing that out.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 13]
```diff
@@ -0,0 +1,87 @@
...
+/-- Conversion from `WithTop α` to `α`, mapping `⊤` to zero. -/
+def untop₀ [Zero α] (a : WithTop α) : α := a.untopD 0
+
+/-!
+## Simplifying Lemmas in cases where α is an Instance of Zero
+-/
+
+@[simp]
+lemma untop₀_eq_zero [Zero α] (a : WithTop α) :
+    a.untop₀ = 0 ↔ a = 0 ∨ a = ⊤ := by simp [WithTop.untop₀]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean:33]:
```suggestion
    a.untop₀ = 0 ↔ a = 0 ∨ a = ⊤ := by simp [untop₀]
```
Same everywhere else

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 14]
```diff
@@ -0,0 +1,87 @@
...
+@[simp]
+lemma untop₀_top [Zero α] :
+    (⊤ : WithTop α).untop₀ = (0 : α) := by simp [WithTop.untop₀]
+
+@[simp]
+lemma untop₀_zero [Zero α] :
+    (0 : WithTop α).untop₀ = (0 : α) := by simp [WithTop.untop₀]
+
+@[simp]
+lemma untop₀_coe [Zero α] (a : α) : (a : WithTop α).untop₀ = a := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean:44]: Could you create a `Zero` section?
```suggestion
section Zero
variable [Zero α]

/-- Conversion from `WithTop α` to `α`, mapping `⊤` to zero. -/
def untop₀ (a : WithTop α) : α := a.untopD 0

/-!
## Simplifying Lemmas in cases where α is an Instance of Zero
-/

@[simp]
lemma untop₀_eq_zero (a : WithTop α) : a.untop₀ = 0 ↔ a = 0 ∨ a = ⊤ := by
  simp [WithTop.untop₀]

@[simp]
lemma untop₀_top : (⊤ : WithTop α).untop₀ = (0 : α) := by simp [WithTop.untop₀]

@[simp]
lemma untop₀_zero : (0 : WithTop α).untop₀ = (0 : α) := by simp [WithTop.untop₀]

@[simp]
lemma untop₀_coe (a : α) : (a : WithTop α).untop₀ = a := rfl

end Zero
```

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 13 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Implemented.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 14 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Implemented.

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 15]
```diff
@@ -0,0 +1,90 @@
...
+  lift b to α using hb
+  simp [← coe_add]
+
+/-!
+## Simplifying Lemmas in cases where α is a MulZeroClass
+-/
+
+@[simp]
+lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
+    (a * b).untop₀ = a.untop₀ * b.untop₀ := by
```
Comment (urkud) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean:65]: We already have `WithTop.untopD_zero_mul`.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 16]
```diff
@@ -0,0 +1,90 @@
...
+@[simp]
+lemma untop₀_coe (a : α) : (a : WithTop α).untop₀ = a := rfl
+
+end Zero
+
+/-!
+## Simplifying Lemmas in cases where α is an AddMonoid
+-/
+@[simp]
+lemma untop₀_add [AddMonoid α] {a b : WithTop α} (ha : a ≠ ⊤) (hb : b ≠ ⊤) :
```
Comment (urkud) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean:53]: This is true for any `untopD`, not only `untop₀`.

**Comment by urkud** [comment]
Could you please also use this definition for `ENat.toNat` and `ENNReal.toNNReal`? Or do you want to do it in a separate PR?

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 15 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Implemented as suggested.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 16 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Generalized lemma and stated existing lemma as special case.

**Comment by kebekus** [comment]
@urkud Thank you for your comments! The existing PR is the first. My plan was to extent the API as I go. Only if everything has been working well for a while, I would turn to  ENat.toNat and ENNReal.toNNReal. This is big change in mathlib, so I would bring this up on Zulip before implementing any drastic changes…

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by kebekus** [comment]
@urkud @YaelDillies @jcommelin Thanks for my side.
